US05180419
Preparation of 2-(4-Isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl) -3.4-(methylenedioxy)benzoic acid
Methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3,4-(methylenedioxy)benzoate (6.00 g, 16.9 mmol) is added to 7.5N sulfuric (100 mL), stirred for 15 hours at reflux temperature, cooled to 0° C. and treated with 6N sodium hydroxide to pH 4. The resultant mixture is continuously extracted with ethyl acetate overnight, and the organic layer is concentrated in vacuo to afford the title product as a white solid, 3.40 g (59.1%), mp 172°-176° C.

reactant | Methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3,4-(methylenedioxy)benzoate | 16.9 mmol, 6.00 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=CC2=C1OCO2)C | C16H18N2O5
reactant | sodium hydroxide | 6N | [OH-].[Na+]
product | 2-(4-Isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl) -3.4-(methylenedioxy)benzoic acid | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)O)C=CC2=C1OCO2)C | C15H16N2O5
